US05155236
N-(4'-chlorophenyl)-2-(acetylaminomethylene)-3-oxobutanamide (83 g) in toluene (200 ml) was treated with 1,1-diethoxyprop-1-ene (60 ml) and heated at 100° C. for 6 hours. The mixture was evaporated and the residue was triturated with toluene to give trans-2,2-diethoxy-3,6-dimethyl-4-(acetylamino)-5-(4'-chlorophenylcarbamoyl)-3,4-dihydro-2H-pyran (80.5 g) m.p. 199°-201° C.

reactant | N-(4'-chlorophenyl)-2-(acetylaminomethylene)-3-oxobutanamide | 83 g | ClC1=CC=C(C=C1)NC(C(C(C)=O)=CNC(C)=O)=O | C13H13ClN2O3
reactant | 1,1-diethoxyprop-1-ene | 60 ml | C(C)OC(=CC)OCC | C7H14O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | trans-2,2-diethoxy-3,6-dimethyl-4-(acetylamino)-5-(4'-chlorophenylcarbamoyl)-3,4-dihydro-2H-pyran | 80.5 g | C(C)OC1(OC(=C([C@H]([C@@H]1C)NC(C)=O)C(NC1=CC=C(C=C1)Cl)=O)C)OCC | C20H27ClN2O5
